* /home/darshan1512/esim-workspace1/ring_counter/ring_counter.cir

* u4  in1 in2 net-_u2-pad1_ net-_u2-pad2_ adc_bridge_2
v1  in1 gnd pulse(0 10 10u 10u 10u 5m 10m)
v2  in2 gnd pulse(0 10 10u 10u 10u 1m 500m)
* u1  in1 plot_v1
* u3  in2 plot_v1
* u5  net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ out1 out2 out3 out4 out5 out6 out7 out8 dac_bridge_8
r1  out1 gnd 100
r2  out2 gnd 100
r3  out3 gnd 100
r4  out4 gnd 100
r5  out5 gnd 100
r6  out6 gnd 100
r7  out7 gnd 100
r8  out8 gnd 100
* u6  out1 plot_v1
* u2  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ ring
* u9  out2 plot_v1
* u8  out3 plot_v1
* u10  out4 plot_v1
* u7  out5 plot_v1
* u13  out6 plot_v1
* u11  out7 plot_v1
* u12  out8 plot_v1
a1 [in1 in2 ] [net-_u2-pad1_ net-_u2-pad2_ ] u4
a2 [net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ ] [out1 out2 out3 out4 out5 out6 out7 out8 ] u5
a3 [net-_u2-pad1_ ] [net-_u2-pad2_ ] [net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ ] u2
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u5 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             ring, NgSpice Name: ring
.model u2 ring(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 0.01e-00 0.1e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in1)
plot v(in2)
plot v(out1)
plot v(out2)
plot v(out3)
plot v(out4)
plot v(out5)
plot v(out6)
plot v(out7)
plot v(out8)
.endc
.end
