* /home/darshan1512/esim-workspace1/sequence_detector/sequence_detector.cir

* u4  net-_u4-pad1_ din net-_u4-pad3_ out seq1
* u8  out net-_r1-pad1_ dac_bridge_1
v1  clk gnd pulse(0 10 10u 10u 10u 5m 10m)
v2  i1 gnd pulse(0 10 10u 10u 10u 10m 20m)
v3  i2 gnd pulse(0 10 10u 10u 10u 20m 40m)
v4  rst gnd pulse(0 10 10u 10u 10u 1m 500m)
* u1  net-_u1-pad1_ net-_u1-pad2_ din and_gate
* u5  clk i1 i2 rst net-_u4-pad1_ net-_u1-pad1_ net-_u1-pad2_ net-_u4-pad3_ adc_bridge_4
r1  net-_r1-pad1_ gnd resistor
* u2  clk plot_v1
* u6  din plot_v1
* u3  rst plot_v1
* u7  out plot_v1
* u10  i1 plot_v1
* u9  i2 plot_v1
a1 [net-_u4-pad1_ ] [din ] [net-_u4-pad3_ ] [out ] u4
a2 [out ] [net-_r1-pad1_ ] u8
a3 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [din ] u1
a4 [clk i1 i2 rst ] [net-_u4-pad1_ net-_u1-pad1_ net-_u1-pad2_ net-_u4-pad3_ ] u5
* Schematic Name:                             seq1, NgSpice Name: seq1
.model u4 seq1(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u8 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             and_gate, NgSpice Name: and_gate
.model u1 and_gate(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_4, NgSpice Name: adc_bridge
.model u5 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 10e-03 200e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(clk)
plot v(din)
plot v(rst)
plot v(out)
plot v(i1)
plot v(i2)
.endc
.end
